US20010014761A1
Preparation of 1-(2-nitro-4-trifluoromethylphenyl)-1-nitroethane (Reaction Scheme Sc3).
0.87 g of sodium carbonate in 5 ml of anhydrous toluene are placed in a 30 ml reaction vessel, and 0.11 g of benzyltriethylammonium chloride and 1.13 g of 4-chloro-3-nitrobenzotrifluoride and 0.38 g of nitroethane are added at the same time. The mixture is stirred for 16 hours at 20° C., 10 ml of water are added and the aqueous phase is separated, then acidified by a 4N solution of sulfuric acid. It is then extracted with 5 ml of methyl t-butyl ether. After removing the organic solvent, 0.18 g of a mixture is obtained which is separated by column chromatography using reverse phase silica eluting with a mixture of water and acetonitrile to obtain 0.12 g of the title compound, m.p. 48° C.

reactant | sodium carbonate | 0.87 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-3-nitrobenzotrifluoride | 1.13 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | nitroethane | 0.38 g | [N+](=O)([O-])CC | C2H5NO2
reactant | water | 10 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltriethylammonium chloride | 0.11 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(2-nitro-4-trifluoromethylphenyl)-1-nitroethane | 0.18 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)C(C)[N+](=O)[O-] | C9H7F3N2O4
